US08563575B2
A mixture of 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.15 g), iodoethane (0.027 mL) and sodium hydride (0.015 g) (60% in oil) in DMF (4.0 mL) was stirred at room temperature for 4 h. To the mixture was added H2O, and the mixture was extracted with AcOEt. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-ethyl-7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (90 mg) as pale yellow crystals.

reactant | 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.15 g | CC1=C2C(=NC=C1)N(C(N2)=O)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C26H29N5O3Si
reactant | iodoethane | 0.027 mL | ICC | C2H5I
reactant | sodium hydride | 0.015 g | [H-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 90 mg | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1)=O | C28H33N5O3Si
